US04990614
10% Palladium-carbon (120 mg) was added to an ethanolic solution (20 ml) of 1-(2,4-dibenzyloxybenzoyl-L-glutaminyl)-4-phenylpiperazine (364 mg) and catalytic reduction was carried out for 6 hours at room temperature and under atmospheric pressure in hydrogen stream. Thereafter, treatments were effected in the same manner as in Example 5 (ii) to obtain powdery 1-(2,4-dihydroxybenzoyl-L-glutaminyl)-4-phenylpiperazine (169 mg).

reactant | 1-(2,4-dibenzyloxybenzoyl-L-glutaminyl)-4-phenylpiperazine | 20 ml, 364 mg | C(C1=CC=CC=C1)OC1=C(C(=O)N[C@@H](CCC(N)=O)C(=O)N2CCN(CC2)C2=CC=CC=C2)C=CC(=C1)OCC1=CC=CC=C1 | C36H38N4O5
solvent | hydrogen | [H][H] | H2
catalyst | Palladium-carbon | 120 mg | [C].[Pd]
product | 1-(2,4-dihydroxybenzoyl-L-glutaminyl)-4-phenylpiperazine | 169 mg | OC1=C(C(=O)N[C@@H](CCC(N)=O)C(=O)N2CCN(CC2)C2=CC=CC=C2)C=CC(=C1)O | C22H26N4O5
